US06797726B1
In 7 mL of tetrahydrofuran is dissolved 0.70 g of N1-(2-hydroxyethyl)-N1-methyl-2-[2-(2-fluorobenzo[b]thiophen-5-yl)ethoxy]-acetamide. The solution is cooled to 5° C., to which is dropwise added 6.7 mL of 1 mol/L solution of borane-tetrahydrofuran complex in tetrahydrofuran. The resulting mixture is stirred at ambient temperature overnight, 1.5 mL of 6 mol/L hydrochloric acid is dropwise added, and the resulting mixture is heated under reflux for one hour. After cooling, water and ethyl acetate are added to the reaction mixture, pH is adjusted to 10.5 with 5 mol/L aqueous solution of sodium hydroxide, and the organic layer is separated. The organic layer is washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (eluent: chloroform:methanol=10:1 to 5:1) to obtain 0.58 g of 2-[{2-[2-(2-fluorobenzo[b]thiophen-5-yl)ethoxy]ethyl}(methyl)amino]-1-ethanol as an oily product.

reactant | N1-(2-hydroxyethyl)-N1-methyl-2-[2-(2-fluorobenzo[b]thiophen-5-yl)ethoxy]-acetamide | 0.70 g | OCCN(C(COCCC1=CC2=C(SC(=C2)F)C=C1)=O)C | C15H18FNO3S
reactant | hydrochloric acid | 6 mol/L, 1.5 mL | Cl | ClH
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[{2-[2-(2-fluorobenzo[b]thiophen-5-yl)ethoxy]ethyl}(methyl)amino]-1-ethanol | 0.58 g | FC1=CC2=C(S1)C=CC(=C2)CCOCCN(CCO)C | C15H20FNO2S
